US08207213B2
Ethyl {4-[9-(ethyloxy)-4-hydroxy-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate
To a solution of ethyl {4-[4-(ethyloxy)-9-hydroxy-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate (2.50 g, 5.72 mmol) in THF (50 ml) under an argon atmosphere, was added sodium borohydride (0.217 g, 5.72 mmol) followed by borane THF complex solution (1.0M in THF, 5.72 ml, 5.72 mmol). This was stirred at room temperature for 2 hours. A further 5.72 mmol of sodium borohydride and borane THF complex was added to the reaction mixture and stirring continued for 2 hours. Finally, a further 2.86 mmol addition of sodium borohydride and borane THF complex was made and stirring continued for 1.5 hours until the reaction was complete. This was quenched with ethyl acetate (100 ml) and methanol (3 ml) then washed with 2N HCl (100 ml). The aqueous was re-extracted with ethyl acetate (200 ml). The combined organics were washed with brine (200 ml), dried over magnesium sulphate, filtered and evaporated to give the title compound as a pale yellow solid (2.45 g, 5.79 mmol).

reactant | ethyl {4-[4-(ethyloxy)-9-hydroxy-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate | 5.72 mmol, 2.50 g | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=C(C=C(C=C1)CC(=O)OCC)F)=O)O)C=CC=C2 | C24H20FNO6
reactant | sodium borohydride | 5.72 mmol, 0.217 g | [BH4-].[Na+]
reactant | sodium borohydride | 5.72 mmol | [BH4-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Ethyl {4-[9-(ethyloxy)-4-hydroxy-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate | 5.79 mmol, 2.45 g | C(C)OC=1C=2C(N(CC2C(=C2C1C=CC=C2)O)C2=C(C=C(C=C2)CC(=O)OCC)F)=O | C24H22FNO5
